US08168668B2
15) 1-[4-{[(2S)-2-Methoxypropyl]oxy}-3-(trifluoromethyl)phenyl]ethanamine
The title compound was synthesized according to the procedure described for the synthesis of 1-[4-[(1-methylpiperidin-4-yl)oxy]-3-(trifluoromethyl)phenyl]ethanamine, part A and B, starting from 4-fluoro-3-(trifluoromethyl)benzonitrile and (S)-(+)-2-methoxypropanol.

reactant | 1-[4-[(1-methylpiperidin-4-yl)oxy]-3-(trifluoromethyl)phenyl]ethanamine | CN1CCC(CC1)OC1=C(C=C(C=C1)C(C)N)C(F)(F)F | C15H21F3N2O
reactant | 4-fluoro-3-(trifluoromethyl)benzonitrile | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | (S)-(+)-2-methoxypropanol | CO[C@H](CO)C | C4H10O2
product | 1-[4-{[(2S)-2-Methoxypropyl]oxy}-3-(trifluoromethyl)phenyl]ethanamine | CO[C@H](COC1=C(C=C(C=C1)C(C)N)C(F)(F)F)C | C13H18F3NO2
